US05981533
Under a N2 atmosphere, a suspension of 74.3 g (348 mmol) of 5-amino-3-benzylamino-1H-pyrazole-4-carbonitrile in 1.0 liter of toluene is boiled under reflux for 2 hours with 70.1 ml (95%; 409 mmol) of N,N-dimethylformamide diethyl acetal. Cooling to RT, filtering with suction and washing with diethyl ether yield N'-(3-benzylamino-4-cyano-1H-pyrazol-5-yl)-N,N-dimethylformamidine; m.p. 197-200° C.; TLC: Rf =0.50 (ethyl acetate).

reactant | 5-amino-3-benzylamino-1H-pyrazole-4-carbonitrile | 348 mmol, 74.3 g | NC1=C(C(=NN1)NCC1=CC=CC=C1)C#N | C11H11N5
reactant | N,N-dimethylformamide diethyl acetal | 409 mmol, 70.1 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 1.0 liter | C1(=CC=CC=C1)C | C7H8
product | N'-(3-benzylamino-4-cyano-1H-pyrazol-5-yl)-N,N-dimethylformamidine | C(C1=CC=CC=C1)NC1=NNC(=C1C#N)N=CN(C)C | C14H16N6
